US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(4-cyano-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXLVII)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75 mg, 0.22 mmol), 4-Formylbenzonitrile (32.0 mg, 0.244 mmol), and Ammonium acetate (34.2 mg, 0.444 mmol) were reacted to produce 47.01 mg (47%) of the title compound. (300 MHz, DMSO-d6) 13.60 (s, 1H), 8.29 (d, J=8 Hz, 2H), 8.08 (s, 1H), 7.76 (s, 1H), 7.31 (m, 1H), 7.24 (s, 1H), 6.42 (m, 1H), 6.37 (m, 1H), 5.20 (t, J=17 Hz, 8.5 Hz, 1H), 2.90 (s, 1H), 2.79 (s, 1H), 2.62 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=451 (M+H), HPLC: 2.43 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.22 mmol, 75 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-Formylbenzonitrile | 0.244 mmol, 32.0 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | Ammonium acetate | 0.444 mmol, 34.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-cyano-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 47.01 mg, 47% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)C#N)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C21H17BrN6O
